US07956052B2
N-(6-Chloro-5-methylpyridin-2-yl)-1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl cyclopropanecarboxamide (110 mg, 0.300 mmol) was dissolved in 3 mL of 1,2-dimethoxyethane (DME) in a microwave reactor tube. tert-Butyl 1-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)cyclopropylcarbamate (50% pure, 280 mg, 0.390 mmol), 0.4 mL of an aqueous 2 M potassium carbonate solution, and tetrakis(triphenylphospine)palladium(0) (Pd(PPh3)4, 17 mg, 0.015 mmol) were added and the reaction mixture was heated at 120° C. in a microwave reactor for 20 minutes. The resulting material was cooled to room temperature, filtered, and the layers were separated. The organic layer was evaporated to dryness and the residue was purified on silica gel utilizing a gradient of 0-30% ethyl acetate in hexanes to yield tert-butyl 1-(3-(6-(1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamido)-3-methylpyridin-2-yl)phenyl)cyclopropylcarbamate. This material was then dissolved in 3 mL of dichloromethane containing 1 mL of trifluoroacetic acid (TFA) and was allowed to stir for 15 min at room temperature. The mixture was evaporated to dryness, dissolved in a minimum of N,N-dimethylformamide, and purified by reverse-phase preparative liquid chromatography utilizing a gradient of 0-99% acetonitrile in water containing 0.05% trifluoroacetic acid to yield N-(6-(3-(1-aminocyclopropyl)phenyl)-5-methylpyridin-2-yl)-1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamide. ESI-MS m/z calc. 463.2, found; 464.0 (M+1)+Retention time 1.39 minutes.

reactant | 2,2-difluorobenzo[d][1,3]dioxol-5-yl cyclopropanecarboxamide | 0.300 mmol, 110 mg | FC1(OC2=C(O1)C=CC(=C2)C2(CC2)C(=O)N)F | C11H9F2NO3
reactant | tert-Butyl 1-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)cyclopropylcarbamate | 0.390 mmol, 280 mg | CC1(OB(OC1(C)C)C=1C=C(C=CC1)C1(CC1)NC(OC(C)(C)C)=O)C | C20H30BNO4
reactant | potassium carbonate | 2 M | C([O-])([O-])=O.[K+].[K+]
reactant | 1,2-dimethoxyethane | 3 mL | COCCOC | C4H10O2
catalyst | Pd(PPh3)4 | 0.015 mmol, 17 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-butyl 1-(3-(6-(1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamido)-3-methylpyridin-2-yl)phenyl)cyclopropylcarbamate | FC1(OC2=C(O1)C=CC(=C2)C2(CC2)C(=O)NC2=CC=C(C(=N2)C=2C=C(C=CC2)C2(CC2)NC(OC(C)(C)C)=O)C)F | C31H31F2N3O5
